US05965756
19c) Preparation of 5,6,7.8-Tetrahydro-2,5,5,8,8-pentamethyl-1H-benz(f)indene
(2,3,5,7-Tetrahydro-2,5,5,8,8-pentamethyl-1H-Benz(f)inden-1-one (14.89 g, 58.08 mmol) and NaBH4 (2.21 g, 58.5 mmol) were stirred in diethylether (200 mL) at 0° C. as ethanol (100 mL) was added slowly. This mixture was allowed to warm slowly to room temperature and then stirred at room temperature overnight. After the reaction period the mixture was poured onto crushed ice and made acidic with HCl. The organic layer was then separated and washed with 1M HCl (1×100 mL). The volatiles were then removed from the organic layer and the residue refluxed in benzene (300 mL) with ptoluenesulfonic acid (0.12 g) using a Dean-Stark apparatus until no more H2O was evolved. The mixture was then washed with 1 M NaHCO3 (2×100 mL) and the volatiles were removed from the organic layer resulting in the isolation of a yellow oil. Recrystallization from MeOH (0° C.) gave the desired product as off-white crystals (10.37 g, 74.3 percent yield).

reactant | 2,3,5,7-Tetrahydro-2,5,5,8,8-pentamethyl-1H-Benz(f)inden-1-one | 58.08 mmol, 14.89 g | CC1CC=2C=C3C(=CC2C1=O)C(CCC3(C)C)(C)C | C18H24O
reactant | NaBH4 | 58.5 mmol, 2.21 g | [BH4-].[Na+]
reactant | ethanol | 100 mL | C(C)O | C2H6O
reactant | HCl | Cl | ClH
solvent | diethylether | 200 mL | C(C)OCC | C4H10O
product | 5,6,7.8-Tetrahydro-2,5,5,8,8-pentamethyl-1H-benz(f)indene | 10.37 g, 74.3 percent yield | CC1=CC=2C=C3C(=CC2C1)C(CCC3(C)C)(C)C | C18H24
